US06458772B1
e) Iodomethyl 2-(N-benzyloxycarbonyl-L-valyloxy)-3-methyl-(S)-(+)-butyrate
Chloromethyl 2-(N-benzyloxycarbonyl-L-valyloxy)-3-methyl-(S)-(+)-butyrate was converted to iodide by the method described in Example A-I-1, step e to give the title compound (3.64 g) practically pure. Rf (2%MeOH/CHCl3) 0.85.

reactant | Chloromethyl 2-(N-benzyloxycarbonyl-L-valyloxy)-3-methyl-(S)-(+)-butyrate | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O[C@H](C(=O)OCCl)C(C)C | C19H26ClNO6
reactant | iodide | [I-]
product | Iodomethyl 2-(N-benzyloxycarbonyl-L-valyloxy)-3-methyl-(S)-(+)-butyrate | 3.64 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O[C@H](C(=O)OCI)C(C)C | C19H26INO6
